US07977331B1
To a solution of methyl 12-cyclohexyl-4-(pyridin-3-yl)-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (130 mg, 0.203 mmol) in tetrahydrofuran (2 ml) and methanol (2 ml) was added 4N aqueous sodium hydroxide solution (1 ml), and the mixture was stirred at room temperature for 12 hr. The reaction mixture was adjusted to pH 6.5 with 2N hydrochloric acid, and extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure. To a solution of the residue in chloroform was added 4N HCl-ethyl acetate solution (0.5 ml), and the solvent was evaporated under reduced pressure. A mixed solvent (hexane:ethyl acetate=4:1) was added to the residue. The precipitated solid was collected by filtration to give 12-cyclohexyl-4-(pyridin-3-yl)-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid hydrochloride (88 mg, yield 91%).

reactant | methyl 12-cyclohexyl-4-(pyridin-3-yl)-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 0.203 mmol, 130 mg | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4C=4C=NC=CC4)C=C(C=C2)C(=O)OC | C29H28N2O3
reactant | sodium hydroxide | 4N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
product | 12-cyclohexyl-4-(pyridin-3-yl)-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid hydrochloride | 88 mg, yield 91% | Cl.C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC=C4C=4C=NC=CC4)C=C(C=C2)C(=O)O | InChI=1S/C28H26N2O3.ClH/c31-28(32)19-11-12-22-24(16-19)30-14-15-33-27-21(20-8-5-13-29-17-20)9-4-10-23(27)26(30)25(22)18-6-2-1-3-7-18;/h4-5,8-13,16-18H,1-3,6-7,14-15H2,(H,31,32);1H
